US04119637
α,α-Diphenyl-α-(1-isopropyl-3-azetidinyl)acetonitrile.
The benzene solution of 1-isopropyl-3-azetidinylmethane sulfonate was added dropwise to the stirred refluxing toluene mixture containing the sodium salt of diphenylacetonitrile and refluxing continued for 1.5 hours after addition. The cooled reaction mixture was treated with water, the layers separated, and the organic layer extracted with dilute hydrochloric acid and water. The combined extracts were basified using dilute sodium hydroxide and the base insoluble material extracted with chloroform. The dried extract was concentrated and the residual material was recrystallized from isooctane. The α,α-diphenyl-α-(1-isopropyl-3-azetidinyl)acetonitrile weighed 142 g. (56%) and melted at 93°-95° C.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 1-isopropyl-3-azetidinylmethane sulfonate | C(C)(C)N1CC(C1)CS(=O)(=O)[O-]
reactant | sodium | [Na] | Na
reactant | diphenylacetonitrile | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | α,α-Diphenyl-α-(1-isopropyl-3-azetidinyl)acetonitrile | C1(=CC=CC=C1)C(C#N)(C1CN(C1)C(C)C)C1=CC=CC=C1 | C20H22N2
